US07482113B2
Preparation of 3-oxo-2-cyanopropanoic acid ethyl ester tetramethylenebis(triphenylphosphonium) salt (CDP-12)
CDP-12 was prepared similar to the method used to prepare CDP-2 from potassium salt of 3-oxo-2-cyanopropanoic acid ethyl ester (1.43 g, 8 mmol) and tetramethylenebis(triphenylphosphonium bromide) (2.96 g, 4 mmol) to give the corresponding product in quantitative yield that is hygroscopic.

reactant | potassium | [K] | K
reactant | 3-oxo-2-cyanopropanoic acid ethyl ester | 8 mmol, 1.43 g | C(C)OC(C(C=O)C#N)=O | C6H7NO3
reactant | tetramethylenebis(triphenylphosphonium bromide) | 4 mmol, 2.96 g | C1=CC=C(C=C1)[P+](CCCC[P+](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6.[Br-].[Br-]
product | 3-oxo-2-cyanopropanoic acid ethyl ester tetramethylenebis(triphenylphosphonium) salt | quantitative yield | C1(=CC=CC=C1)[P+](CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(C)OC(C(C=O)C#N)=O | InChI=1S/C40H38P2.C6H7NO3/c1-7-21-35(22-8-1)41(36-23-9-2-10-24-36,37-25-11-3-12-26-37)33-19-20-34-42(38-27-13-4-14-28-38,39-29-15-5-16-30-39)40-31-17-6-18-32-40;1-2-10-6(9)5(3-7)4-8/h1-18,21-32H,19-20,33-34H2;4-5H,2H2,1H3/q+2;
